US09056866B2
Step 2: 5-tert-butyl-3-[(2-chlorophenyl)methyl]-4H-triazolo[4,5-d]pyrimidin-7-one
5-amino-1-(2-chlorobenzyl)-1H-1,2,3-triazole-4-carboxamide (10.80 g, 42.9 mmol, Eq: 1.00) was suspended in N,N-dimethylacetamide (50.2 g, 54.0 ml). Pyridine (5.1 g, 5.19 ml, 64.4 mmol, Eq: 1.5) was added followed by pivaloyl chloride (7.84 g, 8.00 ml, 64.4 mmol, Eq: 1.5) and the reaction mixture was heated to ca 80° C. After 3 h reaction (and complete conversion of the starting material to the intermediate), KHCO3 (21.6 g, 215 mmol, Eq: 5.00) was added and the suspension was heated to Tj=155° C. for 24 h to convert the 1-[(2-chlorophenyl)methyl]-5-(2,2-dimethylpropanoylamino)triazole-4-carboxamide intermediate to the product. The reaction mixture was cooled to RT and water (254 g, 254 ml) was added dropwise over 30 min. The brown suspension was cooled to 0° C., stirred for 1 h30 min and was filtered. The filter cake was washed with water (43.2 g, 43.2 ml) and dried at 500° C./5 mbar to give 11 g of the title compound as an off-white powder. MS(m/e): 318.0 (MH+).

reactant | 5-amino-1-(2-chlorobenzyl)-1H-1,2,3-triazole-4-carboxamide | 42.9 mmol, 10.80 g | NC1=C(N=NN1CC1=C(C=CC=C1)Cl)C(=O)N | C10H10ClN5O
reactant | Pyridine | 64.4 mmol, 5.19 ml, 5.1 g | N1=CC=CC=C1 | C5H5N
reactant | pivaloyl chloride | 64.4 mmol, 8.00 ml, 7.84 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | 1-[(2-chlorophenyl)methyl]-5-(2,2-dimethylpropanoylamino)triazole-4-carboxamide | ClC1=C(C=CC=C1)CN1N=NC(=C1NC(C(C)(C)C)=O)C(=O)N | C15H18ClN5O2
solvent | N,N-dimethylacetamide | 54.0 ml, 50.2 g | CN(C(C)=O)C | C4H9NO
solvent | water | 254 ml, 254 g | O | H2O
product | 5-tert-butyl-3-[(2-chlorophenyl)methyl]-4H-triazolo[4,5-d]pyrimidin-7-one | 11 g | C(C)(C)(C)C1=NC(C2=C(N1)N(N=N2)CC2=C(C=CC=C2)Cl)=O | C15H16ClN5O
